US07351858B2
[4-(2-{[2-(methoxycarbonyl)phenyl]thio}ethyl)phenoxy]acetic acid (0.200 g, 0.577 mmol) was dissolved in DMF (10 ml), N-[4-(trifluoromethyl)benzyl]ethanamine (0.129 g, 0.635 mmol) was added and the mixture was cooled to 0° C. N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate (0.204 g, 0.635 mmol) and N-ethyl-N,N-diisopropylamine (0.157 g, 1.212 mmol) was added. The solution was stirred overnight at room temperature. Water (100 ml) was added and the water phase was extracted with diethyl ether (3×20 ml). The organic phase was washed with Na2CO3 (3×20 ml, aq) and HCl (0.5 M, 2×, 10 ml). The organic layer was dried (MgSO4) and the solvent was removed by evaporation. The crude was purified by flash chromatography (started with isocratic heptane/EtOAc 30/70 and then the EtOAc concentration was increased to 100%, (silica gel 60 0.004-0.063 mm). The product containing fractions were pooled and the solvent was removed by evaporation to give 0.085 g of methyl 2-({2-[4-(2-{ethyl[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]ethyl}thio)benzoate (yield 27.7%).

reactant | [4-(2-{[2-(methoxycarbonyl)phenyl]thio}ethyl)phenoxy]acetic acid | 0.577 mmol, 0.200 g | COC(=O)C1=C(C=CC=C1)SCCC1=CC=C(OCC(=O)O)C=C1 | C18H18O5S
reactant | N-[4-(trifluoromethyl)benzyl]ethanamine | 0.635 mmol, 0.129 g | FC(C1=CC=C(CNCC)C=C1)(F)F | C10H12F3N
reactant | N-[(1H-1,2,3-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium tetrafluoroborate | 0.635 mmol, 0.204 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-ethyl-N,N-diisopropylamine | 1.212 mmol, 0.157 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | Water | 100 ml | O | H2O
product | methyl 2-({2-[4-(2-{ethyl[4-(trifluoromethyl)benzyl]amino}-2-oxoethoxy)phenyl]ethyl}thio)benzoate | 0.085 g, yield 27.7% | C(C)N(C(COC1=CC=C(C=C1)CCSC1=C(C(=O)OC)C=CC=C1)=O)CC1=CC=C(C=C1)C(F)(F)F | C28H28F3NO4S
